US07407955B2
7-(2-cyano-benzyl)-xanthine
Prepared by treating 16.68 g of 2-amino-7-(2-cyano-benzyl)-1,7-dihydro-purin-6-one with 17.00 g of sodium nitrite in a mixture of 375 ml of conc. acetic acid, 84 ml of water and 5.2 ml of conc. hydrochloric acid at 50° C.

reactant | 2-amino-7-(2-cyano-benzyl)-1,7-dihydro-purin-6-one | 16.68 g | NC=1NC(C=2N(C=NC2N1)CC1=C(C=CC=C1)C#N)=O | C13H10N6O
reactant | sodium nitrite | 17.00 g | N(=O)[O-].[Na+]
reactant | water | 84 ml | O | H2O
reactant | hydrochloric acid | 5.2 ml | Cl | ClH
solvent | acetic acid | 375 ml | C(C)(=O)O | C2H4O2
product | 7-(2-cyano-benzyl)-xanthine | C(#N)C1=C(CN2C=NC=3NC(NC(C23)=O)=O)C=CC=C1 | C13H9N5O2
